US07414140B2
A 250 round bottom flask was loaded with fluvastatin methyl ester (12.0 g), EtOH (60 ml), water (36 ml) and NaOH (1 eq.). After 2 h the ethanol was evaporated and the residue was divided to 4 fractions. Water was added (completing to 20 vol) and extracted twice with ethyl acetate. The product was isolated by distillation of water to obtain wet fluvastatin sodium crystal Form LXXVI. (the sample was kept at room temperature for 3 days).

reactant | fluvastatin methyl ester | 12.0 g | CC(C)N1C2=CC=CC=C2C(=C1/C=C/[C@@H](C[C@@H](CC(=O)OC)O)O)C3=CC=C(C=C3)F | C25H28FNO4
reactant | EtOH | 60 ml | CCO | C2H6O
reactant | NaOH | 1 eq. | [OH-].[Na+]
solvent | water | 36 ml | O | H2O
product | fluvastatin sodium | CC(C)N1C=2C=CC=CC2C(=C1/C=C/C(CC(CC(=O)[O-])O)O)C=3C=CC(=CC3)F.[Na+] | InChI=1S/C24H26FNO4.Na/c1-15(2)26-21-6-4-3-5-20(21)24(16-7-9-17(25)10-8-16)22(26)12-11-18(27)13-19(28)14-23(29)30;/h3-12,15,18-19,27-28H,13-14H2,1-2H3,(H,29,30);/q;+1/p-1/b12-11+;
